US05945440
285 mg (0.63 mmol) (±)-12-(3-diethylamino-2-hydroxy-1-propyl)-6,7,12,13-tetrahydro-5,1-dioxoindolo-[2,3-a]furano[3,4-c]carbazole are heated in an autoclave for 6 hours at 140° C. in 30 ml of a saturated solution of ammonia in ethanol. The solution is evaporated, the residue is heated in 50 ml diisopropyl ether/tetrahydrofuran (4:1 v/v) and, after cooling, the crystals obtained are filtered off. (±)-12-(3-Diethylamino-2-hydroxy-1-propyl)-6,7,12,13-tetrahydro-5,1-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole is obtained in the form of yellow crystals which decompose from 235° C.

reactant | (±)-12-(3-diethylamino-2-hydroxy-1-propyl)-6,7,12,13-tetrahydro-5,1-dioxoindolo-[2,3-a]furano[3,4-c]carbazole | 0.63 mmol, 285 mg | C(C)N(CC(CN1C2=CC=CC=C2C=2C3=C(C4=C(C12)NC=1C(CC=CC14)=O)C(OC3)=O)O)CC | C27H27N3O4
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | (±)-12-(3-Diethylamino-2-hydroxy-1-propyl)-6,7,12,13-tetrahydro-5,1-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole | C(C)N(CC(CN1C2=CC=CC=C2C=2C3=C(C4=C(C12)NC=1C(CC=CC14)=O)C(NC3)=O)O)CC | C27H28N4O3
